US07169789B2
N′-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinazolinyl}oxy)phenyl]-N,N-diethylurea
A starting compound (N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-diethylurea, 83 mg), potassium carbonate (138 mg), and 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate (59 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C. for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give an intermediate. Triphosgene (90 mg) was added to a solution of the intermediate and triethylamine (0.027 ml) in chloroform (1 ml) at 0° C., and the mixture was stirred for 30 min. The reaction mixture was cooled to 0° C., and diethylamine (0.044 ml) was then added dropwise to the cooled reaction mixture. The temperature of the mixture was raised to room temperature over a period of 2 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, followed by extraction with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC to give 30 mg (yield 29%) of the title compound.

reactant | N′-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N,N-diethylurea | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(N(CC)CC)=O | C20H21ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate | 59 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=NC=C1 | C11H13N3O3S
reactant | Triphosgene | 90 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diethylamine | 0.044 ml | C(C)NCC | C4H11N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.027 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | N′-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinazolinyl}oxy)phenyl]-N,N-diethylurea | 30 mg, yield 29% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCN1N=NC=C1)NC(N(CC)CC)=O | C24H26ClN7O4
